US08802673B2
To a stirred solution of (S)-2-[4-(5-methylsulfanyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (72 mg) in dichloromethane (5 ml) was added 3-chloroperoxybenzoic acid (77.2 mg). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was then poured into saturated aq. Na2SO3 solution and extracted twice with dichloromethane. The combined organic layers were dried over Na2SO4 and concentrated in vacuo to afford (S)-2-[4-(5-methanesulfonyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (84 mg, quant.) as a light brown foam which was used in the next step without further purification. MS (ISP): 435.2 ([M+H]+), 379.2 ([M+H—C4H8]+).

reactant | (S)-2-[4-(5-methylsulfanyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 72 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=C(C=N1)SC | C20H26N4O3S
reactant | 3-chloroperoxybenzoic acid | 77.2 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-2-[4-(5-methanesulfonyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 84 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=C(C=N1)S(=O)(=O)C | C20H26N4O5S
